US09102662B2
5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-ylamine [(XXVIA), R1=R2=R3=H, R=3,5-difluorophenyl, PG=triphenylmethyl]
N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide (450 mg, 0.75 mmol) was dissolved in methanol (6 mL) and triethylamine (1.5 mL) and the solution was refluxed for 3 hours. The solvents were removed under reduced pressure and the residue was purified by flash chromatography (eluant: DCM). Title compound was isolated as white foam (300 mg, yield 80%).

reactant | N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | 0.75 mmol, 450 mg | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C(F)(F)F)=O)C=C(C1)F | C35H24F5N3O
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 6 mL | CO | CH4O
product | 5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-ylamine | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N)C=C(C1)F | C33H25F2N3
